US07153854B2
A suspension of methyl 4-({[(benzyloxy)carbonyl]amino}-sulfonyl)benzoate (3.38 g) and 85% pottasium hydroxide (1.28 g) in methanol (40 mL) was stirred for 35 minutes. Methanol was evaporated off, and to the mixture was added 1N hydrochloric acid (20 mL). A white crystal was formed, which was collected by filtration and washed with water and diisopropyl ether, and dried under vacuum. 4-({[(Benzyloxy)carbonyl]amino}sulfonyl)benzoic acid was obtained as a white crystal (2.92 g).

reactant | methyl 4-({[(benzyloxy)carbonyl]amino}-sulfonyl)benzoate | 3.38 g | C(C1=CC=CC=C1)OC(=O)NS(=O)(=O)C1=CC=C(C(=O)OC)C=C1 | C16H15NO6S
reactant | hydroxide | 1.28 g | [OH-]
solvent | methanol | 40 mL | CO | CH4O
product | 4-({[(Benzyloxy)carbonyl]amino}sulfonyl)benzoic acid | C(C1=CC=CC=C1)OC(=O)NS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C15H13NO6S
